US05808062
6-(3,5-Dimethylphenyl)-4-hydroxy-3-(phenylthio)-2H-pyran-2-one:
The title compound was prepared by Method A using 3',5'-dimethylacetophenone (1.43 g, 9.70 mmol), trimethylsilyl triflate (2.24 mL, 11.64 mmol), triethylamine (2.70 mL, 19.40 mmol), methylene chloride (24 mL), and diethyl ester of (phenylthio)-propanedioic acid (1.00 g, 7.46 mmol). m.p. 210°-211° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.35 (s, 6H), 6.83 (s, 1H), 7.12 (m, 3H), 7.21 (s, 1H), 7.27 (t, 2H), 7.46 (s, 2H).

reactant | 3',5'-dimethylacetophenone | 9.70 mmol, 1.43 g | CC=1C=C(C=C(C1)C)C(C)=O | C10H12O
reactant | trimethylsilyl triflate | 11.64 mmol, 2.24 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 19.40 mmol, 2.70 mL | C(C)N(CC)CC | C6H15N
reactant | (phenylthio)-propanedioic acid | 7.46 mmol, 1.00 g | C1(=CC=CC=C1)SC(C(=O)O)C(=O)O | C9H8O4S
solvent | methylene chloride | 24 mL | C(Cl)Cl | CH2Cl2
product | 6-(3,5-Dimethylphenyl)-4-hydroxy-3-(phenylthio)-2H-pyran-2-one | CC=1C=C(C=C(C1)C)C1=CC(=C(C(O1)=O)SC1=CC=CC=C1)O | C19H16O3S
